data/mechanism_extracts/GreenChem/10.1039_D3GC02701E.json
{"doi": "10.1039_D3GC02701E", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical 1,4-alkoxydimerization of aryl alkenes with aliphatic alcohols to afford symmetric and asymmetric 1,4-dialkoxybutanes", "mechanism_family": ["radical_cation", "radical_polar_crossover", "direct_SET"], "electrochemical_role": "Anodic single-electron oxidation of the styrene to a radical cation; cathodic reduction of protons to H2", "key_intermediates": [{"name": "styrene radical cation (I)", "smiles": "[CH2][CH+]c1ccccc1", "role": "transient"}, {"name": "distonic benzyl radical cation from radical addition to second styrene (II)", "smiles": "[CH2]C(c1ccccc1)CC[CH+]c1ccccc1", "role": "reactive"}, {"name": "methoxy-substituted carbon radical (III) after MeOH addition", "smiles": "COC(c1ccccc1)CC[CH]c1ccccc1", "role": "reactive"}, {"name": "benzyl carbocation (IV) after second anodic oxidation", "smiles": "COC(c1ccccc1)CC[CH+]c1ccccc1", "role": "reactive"}, {"name": "1,2-dimethoxylation byproduct B (from 3a-type substrate)", "smiles": null, "role": "off_pathway"}, {"name": "1,2-dimethoxy byproduct A from cyclopropylvinyl substrate", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes styrene to a radical cation (I), which adds to a second styrene giving distonic radical cation II; methanol traps the cation to give carbon radical III, which is further oxidized at the anode to benzyl cation IV; a second methanol addition affords the 1,4-dialkoxybutane while H+ is reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction completely suppressed with 2 equiv BHT; HRMS detected BHT-adduct V capturing radical intermediate III, confirming radical involvement"}, {"name": "Styrene (cyclic voltammetry probe)", "smiles": "C=Cc1ccccc1", "purpose": "redox_probe", "observation": "Onset oxidation potential ~+1.713 V vs reference, supporting feasibility of anodic SET to form a cationic carbon species"}, {"name": "1-cyclopropylvinylbenzene (radical clock)", "smiles": "C(=C)(c1ccccc1)C1CC1", "purpose": "radical_clock", "observation": "No cyclopropane ring opening observed; instead 1,2-dimethoxylation byproduct A formed (53%), suggesting the radical is oxidized to a cation before ring opening can occur"}], "evidence_types_used": ["intermediate_trap_BHT", "cyclic_voltammetry", "radical_clock", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Heteroaryl alkenes bearing pyrrole, pyridine, furan (1a-3a) failed, giving complex byproducts. With electron-rich heteroaryl substrate 3a, a 1,2-dimethoxylation side product (B) was observed. Unsuccessful nucleophiles include aniline, benzotriazole, AcOH, TMSCN, and NH4CN. Cross-1,4-alkoxydimerization between two different styrenes is feasible but lower yielding due to homo-dimerization competition."}
